US08377895B2
Preparation of 5,6,7-trihydroxy-8-((4-methylpiperazin-1-yl)methyl)-2-phenyl-4H-chromen-4-one [Methylpiperazine Baicalein]
The mixture of Baicalein (100 g), methanol 2 L, 37% formaldehyde solution (36.5 ml), 4-N-methyl-piperazin solution (45 g) was stirred under for 4 hours at 55° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 55° C. to get the product as yellow solid 113 g of purity 99.9%. m.p.: 280˜282° C. UV: λmax(alcohol) 278, 330 nm; MS: (API-ES) m/z 383.1 [M+H]+, 405.1 [M+Na]+; IR: 3400, 3050, 2925, 2861, 1637, 1570, 1509 cm−1; 1H NMR (DMSO-d6, 400 MHz): δ 2.14 (s, 3H, CH3), 2.62 (s, 8H, N—CH2), 3.44 (s, 7-OH), 3.96 (s, 2H, 8-CH2), 6.87 (s, 1H, 3-H), 7.46˜7.54 (m, 3H, Ar—H), 8.01˜8.02 (m, 2H, Ar—H), 8.11 (s, 6-OH), 12.64 (s, 1H, 5-OH).

reactant | Baicalein | 100 g | C=1C=CC(=CC1)C2=CC(=O)C=3C(=CC(=C(C3O)O)O)O2 | C15H10O5
reactant | 4-N-methyl-piperazin | 45 g | CN1CCNCC1 | C5H12N2
reactant | methanol | 2 L | CO | CH4O
product | 5,6,7-trihydroxy-8-((4-methylpiperazin-1-yl)methyl)-2-phenyl-4H-chromen-4-one | 113 g | OC1=C2C(C=C(OC2=C(C(=C1O)O)CN1CCN(CC1)C)C1=CC=CC=C1)=O | C21H22N2O5
